US09062028B2
Step D. Ethyl 2-(4-(1-(4-(2,4,5-trichlorophenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)acetate
In an oven dried 1-dram vial was a mixture of ethyl 2-(4-(1-(4-hydroxybutanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)acetate (40 mg, 0.108 mmol), 2,4,5-trichlorophenol (34.0 mg, 0.172 mmol), triphenylphosphine (45.2 mg, 0.172 mmol) in CH2Cl2 (35.9 mL). DIAD (29.2 μL, 0.172 mmol) was added, and the reaction mixture was stirred at room temperature overnight. At the conclusion of this period, the reaction mixture was concentrated and purified by preparative HPLC (PHENOMENEX® Axia Luna column, 5μ, C18, 21.2×250 mm; 25 min gradient from 40% A:60% B to 0% A:100% B and 3 min 100% B (A=90% H2O/10% MeOH+0.1% TFA); (B=90% MeOH/10% H2O+0.1% TFA); detection at 220 nm) to afford the title compound (18.9 mg, 32% yield) as a colorless oil. LCMS, [M+H]+=550.1. 1H NMR (400 MHz, MeOD) δ 7.76 (s, 1H), 7.61 (s, 1H), 7.48 (s, 1H), 7.28-7.16 (m, 4H), 5.06 (s, 2H), 4.25 (q, J=7.1 Hz, 2H), 4.04 (br. s, 2H), 3.77 (t, J=6.8 Hz, 2H), 2.79 (t, J=7.0 Hz, 2H), 2.66 (br. s, 2H), 2.13 (dt, J=12.7, 6.4 Hz, 2H), 1.92-1.80 (m, 2H), 1.29 (t, J=7.1 Hz, 3H).

reactant | ethyl 2-(4-(1-(4-hydroxybutanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)acetate | 0.108 mmol, 40 mg | OCCCC(=O)N1CCCC2=C(C=CC=C12)C=1C=NN(C1)CC(=O)OCC | C20H25N3O4
reactant | 2,4,5-trichlorophenol | 0.172 mmol, 34.0 mg | ClC1=C(C=C(C(=C1)Cl)Cl)O | C6H3Cl3O
reactant | triphenylphosphine | 0.172 mmol, 45.2 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 0.172 mmol, 29.2 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | CH2Cl2 | 35.9 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(4-(1-(4-(2,4,5-trichlorophenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)acetate | 18.9 mg, 32% yield | ClC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=NN(C2)CC(=O)OCC)C=C(C(=C1)Cl)Cl | C26H26Cl3N3O4
